US08664401B2
Step A) Benzyl 2-chloropropanoate
Benzyl alcohol (242 mL, 253 g, 2.34 mol) and pyridine (204 mL, 204 g, 2.57 mol) were dissolved in methylene chloride (2.5 L) and cooled to 0° C. 2-Chloropropanoyl chloride (250 mL, 327 g, 2.57 mol) was added dropwise keeping the temperature between 0° C. and 5° C. After addition the mixture was allowed to warm to RT overnight. The mixture was washed with 20% aqueous citric acid (2.5 L), saturated aqueous NaHCO3 (2.5 L), brine (2.5 L), dried (MgSO4), filtered and concentrated in vacuo. The resulting brown liquid (450 g) was dissolved in a small amount of methylene chloride and filtered through a short path of silica gel. After concentration, the crude was purified via bulb-to-bulb distillation (2*10-2 mbar, 90-95° C.) affording the title compound as a pale yellow liquid (420 g, 90%). 1H-NMR: (CDCl3, 300 MHz): δ ppm 1.75 (d, 3H, CH3), 4.45 (q, 1H, CHCl), 5.25 (s, 2H, CH2Ar), 7.40 (m, 5H, ArH).

reactant | Benzyl alcohol | 2.34 mol, 242 mL, 253 g | C(C1=CC=CC=C1)O | C7H8O
reactant | pyridine | 2.57 mol, 204 mL, 204 g | N1=CC=CC=C1 | C5H5N
reactant | 2-Chloropropanoyl chloride | 2.57 mol, 250 mL, 327 g | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | methylene chloride | 2.5 L | C(Cl)Cl | CH2Cl2
product | Benzyl 2-chloropropanoate | 420 g, 90% | ClC(C(=O)OCC1=CC=CC=C1)C | C10H11ClO2
